US06677349B1
Using the general method of Example 242, 1-(8-aminooctyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (800 mg, 2.17 mmol) was reacted with methanesulfonyl chloride (172 μL, 2.17 mmol) to provide 720 mg of N-{8-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]octyl}methanesulfonamide as a yellow powder, m.p. 109-110° C. Analysis: Calculated for C22H33N5O3S: %C, 59.04; %H, 7.43; %N, 15.65; Found: %C, 58.78; %H, 7.38; %N, 15.48.

reactant | 1-(8-aminooctyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 2.17 mmol, 800 mg | NCCCCCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C21H31N5O
reactant | methanesulfonyl chloride | 2.17 mmol, 172 μL | CS(=O)(=O)Cl | CH3ClO2S
product | N-{8-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]octyl}methanesulfonamide | 720 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCCCCCNS(=O)(=O)C)CCOC | C22H33N5O3S
